US05547954
In a second reaction vessel, 40 mL of tetrahydrofuran is cooled to -78° C., and 2.3 mL (0.021 mole) of trimethyl borate is added dropwise as the Grignard reagent of 3-fluoro-5-trifluoromethylphenyl bromide prepared above is transferred into the second reaction vessel using a cannula. The temperature of the reaction mixture is maintained below -60° C. during the additions. Upon completion of the additions, the reaction mixture is again cooled to -78° C., where it is stirred for about 45 minutes. After this time, the reaction mixture is allowed to warm to ambient temperature. The reaction mixture is then poured into about 200 mL of water and is made acidic with aqueous 5% hydrochloric acid. The mixture is extracted with four 100 mL portions of ethyl acetate. The combined extracts are dried with magnesium sulfate and filtered. The filtrate is concentrated under reduced pressure, yielding 3.3 grams of 3-fluoro-5-trifluoromethylphenylboronic acid, mp 167°-168° C. The NMR spectrum is consistent with the proposed structure.

reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
reactant | trimethyl borate | 0.021 mole, 2.3 mL | B(OC)(OC)OC | C3H9BO3
reactant | 3-fluoro-5-trifluoromethylphenyl bromide | FC=1C=C(C=C(C1)C(F)(F)F)Br | C7H3BrF4
reactant | hydrochloric acid | Cl | ClH
solvent | water | about 200 mL | O | H2O
product | 3-fluoro-5-trifluoromethylphenylboronic acid | 3.3 grams | FC=1C=C(C=C(C1)C(F)(F)F)B(O)O | C7H5BF4O2
